US06130229
4-(8-Chloro-6,11-dihydro-6-methyl-5H-pyrido[3,2-c][1]benzazepin-11-yl)-1-(4-pyridine-acetyl)piperazine
(8-Chloro-6,11-dihydro-6-methyl-5H-pyrido[3,2-c][1]benzazepin-11-yl)-piperazine (100 mg, 0.305 mmol), 4-pyridine-acetic acid (83.6 mg, 0.61 mmol), EDCl (0.116 g, 0.61 mmol) and HOBT (82.4 mg, 0.61 mmol) were dissolved in DMF (2 ml) and stirred for 1 minute, and then NMM (1 ml) was added. The reaction mixture was stirred at 20° C. for 21 hours and then diluted with water (50 ml), and the aqueous phase was then extracted with EtOAc (about 8 times) until no product was visible in the aqueous layer. The EtOAc phase was then washed with aqueous Na2CO3 and evaporated to a residue (152 mg). This was chromatographed on silica gel to afford partially purified title compound (123 mg), which was rechromatographed on silica gel; two fractions, 51.3 and 50.8 mg, were isolated. The latter gave m.p. 83-87° C.

reactant | (8-Chloro-6,11-dihydro-6-methyl-5H-pyrido[3,2-c][1]benzazepin-11-yl)-piperazine | 0.305 mmol, 100 mg | ClC1=CC2=C(C(C3=C(CN2C)C=CC=N3)N3CCNCC3)C=C1 | C18H21ClN4
reactant | 4-pyridine-acetic acid | 0.61 mmol, 83.6 mg | N1=CC=C(C=C1)CC(=O)O | C7H7NO2
reactant | EDCl | 0.61 mmol, 0.116 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBT | 0.61 mmol, 82.4 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NMM | 1 ml | CN1CCOCC1 | C5H11NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | water | 50 ml | O | H2O
product | 4-(8-Chloro-6,11-dihydro-6-methyl-5H-pyrido[3,2-c][1]benzazepin-11-yl)-1-(4-pyridine-acetyl)piperazine | ClC1=CC2=C(C(C3=C(CN2C)C=CC=N3)N3CCN(CC3)C(CC3=CC=NC=C3)=O)C=C1 | C25H26ClN5O
